US08026234B2
Compound 74: (S)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylpiperidin-3-yl)benzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and (S)-1-methylpiperidin-3-amine. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.17-1.26 (m, 2H) 1.29-1.46 (m, 3H) 1.55-1.73 (m, 5H) 1.75-1.90 (m, 6H) 2.23 (br s, 3H) 2.64-2.78 (m, 1H) 2.79-2.95 (m, 1H) 3.31 (s, 3H) 3.90-4.01 (m, 1H) 3.94 (s, 3H) 4.07 (t, J=12.63 Hz, 2H) 4.37-4.53 (m, 1H) 7.47 (dd, J=8.46, 1.64 Hz, 1H) 7.51 (d, J=1.77 Hz, 1H) 7.91 (s, 1H) 8.10 (d, J=7.33 Hz, 1H) 8.21 (s, 1H) 8.27 (d, J=8.34 Hz, 1H). [M+H] calc'd for C28H37F2N7O3 558. found 558.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-1-methylpiperidin-3-amine | CN1C[C@H](CCC1)N | C6H14N2
product | (S)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylpiperidin-3-yl)benzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)N[C@@H]1CN(CCC1)C)C=C2)OC | C28H37F2N7O3
